US09284333B2
To a solution of 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester (Comp. No. 4a) (11 g, 32.3 mmol) in tetrahydrofuran (60 ml) was added water (110 ml) and potassium hydroxide (1.72 g, 30.7 mmol). The mixture was stirred for 5 min, then an additional portion of potassium hydroxide (250 mg) was added and the mixture was stirred for 2 h at 25° C. Tetrahydrofuran was evaporated in vacuo. After addition of 50 ml water, the mixture was acidified with 10 M aqueous hydrochloric acid. The precipitate was filtered off, washed with a small portion of water and dried in vacuo at 55° C. to give 6.56 g (85%) of 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6,8-dicarboxylic acid 8-ethyl ester as a white solid. LC/MS (method 3): Rt=1.34 min; m/z=240.03 (M+H+).

reactant | 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(N2C1COCC2)C(C(Cl)(Cl)Cl)=O | C12H12Cl3NO4
reactant | water | 110 ml | O | H2O
reactant | potassium hydroxide | 30.7 mmol, 1.72 g | [OH-].[K+]
reactant | potassium hydroxide | 250 mg | [OH-].[K+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6,8-dicarboxylic acid 8-ethyl ester | 6.56 g, 85% | C(C)OC(=O)C=1C=C(N2C1COCC2)C(=O)O | C11H13NO5
